US09145391B2
Potassium cyanate (9.47 mg, 0.117 mmol), acetic acid (0.017 mL, 0.292 mmol), 4-methyl-N6′-(piperidin-4-yl)-N6-(4-(trifluoromethyl)pyridin-2-yl)-2,3′-bipyridine-6,6′-diamine (25 mg, 0.058 mmol), and THF (1 mL) were combined. The mixture was stirred at room temperature for 16 hours. The crude solution was purified via reverse phase high pressure liquid chromatography to afford 4-(4-methyl-6-(4-(trifluoromethyl)pyridin-2-ylamino)-2,3′-bipyridin-6′-ylamino)piperidine-1-carboxamide. MS ESI calcd. for C23H25F3N7O [M+H]+ 472. found 472. 1H NMR (500 MHz, DMSO-d6) δ 10.25 (s, 1H), 8.53-8.49 (m, 3H), 8.28 (s, 1H), 8.24 (d, J=6.5 Hz, 1H), 7.44 (s, 1H), 7.39 (s, 1H), 7.22-7.16 (m, 2H), 4.42 (m, 1H), 3.80 (m, 1H), 3.72-3.65 (m, 2H), 3.45 (dd, J=11.0, 4.0 Hz, 1H), 2.36 (s, 3H), 2.22 (m, 1H), 2.00 (m, 1H), 1.82 (s, 3H). rhSyk IC50=4 nM.

reactant | Potassium cyanate | 0.117 mmol, 9.47 mg | [O-]C#N.[K+]
reactant | acetic acid | 0.292 mmol, 0.017 mL | C(C)(=O)O | C2H4O2
reactant | 4-methyl-N6′-(piperidin-4-yl)-N6-(4-(trifluoromethyl)pyridin-2-yl)-2,3′-bipyridine-6,6′-diamine | 0.058 mmol, 25 mg | CC1=CC(=NC(=C1)NC1=NC=CC(=C1)C(F)(F)F)C=1C=NC(=CC1)NC1CCNCC1 | C22H23F3N6
solvent | THF | 1 mL | C1CCOC1 | C4H8O
product | 4-(4-methyl-6-(4-(trifluoromethyl)pyridin-2-ylamino)-2,3′-bipyridin-6′-ylamino)piperidine-1-carboxamide | CC1=CC(=NC(=C1)NC1=NC=CC(=C1)C(F)(F)F)C=1C=NC(=CC1)NC1CCN(CC1)C(=O)N | C23H24F3N7O
